US07034015B2
Preparation 18: Diethyl 2-bromobenzylphosphonate (Compound 418)
Diethyl phosphite (0.77 mL, 6.0 mmol) was dissolved in dry THF (10 mL) in a dry schlenk tube under an argon atmosphere. The solution was cooled on an ice bath and NaH (0.24 g, 60% in oil, 6.0 mmol) was added and stirred for 5 min. 2-bromo-benzylbromide (1.0 g, 4.0 mmol) dissolved in 2 mL dry THF was added and the reaction mixture was refluxed overnight. H2O (20 mL) was added and the water phase was extracted with EtOAc (3×10 mL). The combined organic phases were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified by flash chromatography using EtOAc as the eluent to afford the title compound as a colourless oil.

reactant | Diethyl phosphite | 6.0 mmol, 0.77 mL | P(OCC)(OCC)[O-]
reactant | NaH | 6.0 mmol, 0.24 g | [H-].[Na+]
reactant | 2-bromo-benzylbromide | 4.0 mmol, 1.0 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | H2O | 20 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Diethyl 2-bromobenzylphosphonate | BrC1=C(CP(OCC)(OCC)=O)C=CC=C1 | C11H16BrO3P
